US04977162
0.78 g of 2-(4-chloromethylphenoxy)methylquinoline, 0.76 g of 2-carbopropoxy-6-chloro-5-hydroxy-4-oxo-4H-1-benzopyran and a catalytic amount of potassium iodide are combined in 50 ml of acetone and 2 ml of dimethylformamide, and refluxed for 19 hours. The crude solid obtained on cooling is purified by flash chromatography to give 2-carbopropoxy-6-chloro-5-(4-(quinolin-2-ylmethoxy)benzyloxy) 4-oxo-4H-1-benzopyran having an m.p. of 173°-74° C.

reactant | 2-(4-chloromethylphenoxy)methylquinoline | 0.78 g | ClCC1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C17H14ClNO
reactant | 2-carbopropoxy-6-chloro-5-hydroxy-4-oxo-4H-1-benzopyran | 0.76 g | C(=O)(OCCC)C=1OC2=C(C(C1)=O)C(=C(C=C2)Cl)O | C13H11ClO5
reactant | potassium iodide | [I-].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 2-carbopropoxy-6-chloro-5-(4-(quinolin-2-ylmethoxy)benzyloxy) 4-oxo-4H-1-benzopyran | C(=O)(OCCC)C=1OC2=C(C(C1)=O)C(=C(C=C2)Cl)OCC2=CC=C(C=C2)OCC2=NC1=CC=CC=C1C=C2 | C30H24ClNO6
